Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
post menopausal bleeding
 
Major Surgical or Invasive Procedure:
robot-assisted total laparoscopic hysterectomy, bilateral 
salpingo-oophorectomy, pelvic lymph node dissection, resection 
of ___ hernia sac, cystoscopy 

 
History of Present Illness:
Patient is a ___ gravida 5,
para ___ female, who is sent by Dr. ___ for
consultation regarding newly diagnosed adnexal mass, uterine 
mass
in the setting of postmenopausal bleeding.  The patient reports
that she started having some bleeding from vagina in early
___ where she sought evaluation at a local Emergency Room. 
She describes the symptoms as a feeling of pelvic pressure and
then the passage of blood clots at the time that she urinated. 
She had no other associated symptoms, but states she has been
having bleeding on a daily basis since then.  It is described as
mild.  She denies any abdominal pain, bloating or change in 
bowel
or bladder habits.  Her only other symptom is left shoulder
intermittent pain in the back of her left area along her 
shoulder
blade.  She ultimately underwent an ultrasound and a report 
dated
___ revealed an enlarged uterus measuring 11.5 x 
8.4
x 6.2 cm.  There was a heterogeneous 8.5 x 5.8 x 5.9 cm
intrauterine mass with prominent internal vascularity mixed
echogenic and hypoechoic areas.  There was distortion of the
endometrial lining and it was difficult to determine whether the
predominantly myometrial mass with submucosal component such as
an intramural submucosal fibroid or possibly a large mass 
arising
from the endometrium.  There was no free fluid.  The right ovary
was not visualized; however, there in the left adnexa was an 8.6
x 6.8 x 5 cm fairly well-circumscribed multilocular complex
cystic and solid left adnexal mass.  The mass had multiple solid
lobulated areas of internal vascularity and most likely it was
arising from the left ovary.  Patient also underwent CA-125 on
___, which was equal to a value of 37.  Her CBC was
notable for hemoglobin of 11.5, platelets of 246,000, white 
count
was 8.6.  Given these findings, she is now sent for 
consultation.

 
Past Medical History:
Past Medical History:  Hypertension.

Past Surgical History:  Right mole excision, which was benign.

OB/GYN History:  The patient has had five pregnancies resulting
in five vaginal births.  Menarche at age ___, menopause age ___, 
no
episodes of postmenopausal bleeding.  She reports having regular
menses lasting for five days with heavy flow.  She has had 
normal
regular Pap smears with the last one reportedly almost ___ years
ago.  She has had no use of hormone replacement therapy or birth
control pills and denies any other sexually transmitted
infections.  She is not sexually active.

 
Social History:
___
Family History:
Family History:  Negative for breast, ovarian, uterine or colon
malignancies.

 
Physical Exam:
On day of discharge:
Afebrile, vitals stable
No acute distress
CV: regular rate and rhythm
Pulm: clear to auscultation bilaterally
Abd: soft, appropriately tender, nondistended, incision 
clean/dry/intact, no rebound/guarding
___: nontender, nonedematous

 
Pertinent Results:
___ 05:56AM BLOOD WBC-9.8 RBC-3.05* Hgb-7.9* Hct-25.5* 
MCV-84 MCH-25.9* MCHC-31.0* RDW-15.1 RDWSD-46.0 Plt ___
___ 07:30PM BLOOD WBC-11.1* RBC-3.30* Hgb-8.6* Hct-27.3* 
MCV-83 MCH-26.1 MCHC-31.5* RDW-14.9 RDWSD-45.2 Plt ___
___ 06:22AM BLOOD WBC-9.4 RBC-3.18* Hgb-8.2* Hct-26.4* 
MCV-83 MCH-25.8* MCHC-31.1* RDW-14.8 RDWSD-45.4 Plt ___
___ 05:56AM BLOOD Neuts-68.6 ___ Monos-6.2 Eos-5.0 
Baso-0.3 Im ___ AbsNeut-6.73* AbsLymp-1.91 AbsMono-0.61 
AbsEos-0.49 AbsBaso-0.03
___ 07:30PM BLOOD Neuts-77.7* Lymphs-14.9* Monos-4.6* 
Eos-2.1 Baso-0.2 Im ___ AbsNeut-8.64* AbsLymp-1.66 
AbsMono-0.51 AbsEos-0.23 AbsBaso-0.02
___ 06:22AM BLOOD Neuts-78.0* Lymphs-14.8* Monos-4.8* 
Eos-1.8 Baso-0.2 Im ___ AbsNeut-7.29*# AbsLymp-1.38 
AbsMono-0.45 AbsEos-0.17 AbsBaso-0.02
___ 05:56AM BLOOD Glucose-110* UreaN-9 Creat-0.8 Na-139 
K-4.1 Cl-101 HCO3-28 AnGap-14
___ 06:22AM BLOOD Glucose-101* UreaN-10 Creat-0.8 Na-137 
K-4.1 Cl-101 HCO3-27 AnGap-13
___ 05:56AM BLOOD Calcium-8.1* Phos-2.6* Mg-2.3
___ 06:22AM BLOOD Calcium-8.0* Phos-3.7 Mg-2.0
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service 
after undergoing robot-assisted total laparoscopic hysterectomy, 
bilateral salpingo-oophorectomy, pelvic lymph node dissection, 
resection of ___ hernia sac, and cystoscopy. Please 
see the operative report for full details.  

Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with IV dilaudid and 
toradol. Her diet was advanced without difficulty and she was 
transitioned to PO oxycodone, acetaminophen, and ibuprofen. On 
post-operative day #1, her urine output was adequate so her 
Foley catheter was removed and she voided spontaneously. 

Her post operative course was complicated by the following:

# Anemia:
Patient's hematocrit on post operative day 1 was found to be 
26.4 (from 31.9 pre-op).  Her physical exam and vitals were 
stable, with no concern for ongoing bleeding, but patient 
reported slight dizziness with ambulation.  Orthostatics were 
negative.  Repeat CBCs later in the day, as well as on post 
operative day 2, were stable, and dizziness resolved with PO 
hydration.  

# Post operative fever:
Patient spiked a fever to T 100.8 on post operative day 1, 
thought to be due to atelectasis.  At the time, she was 
complaining of shortness of breath.  Lung exam was notable for 
decreased breath sounds throughout, with some crackles.  CBC was 
notable for slight leukocytosis (WBC 11) but with no bands.  CXR 
showed mild bibasilar atelectasis.  Urinalysis was negative for 
UTI.  Blood and urine cultures were pending at the time of 
discharge.  She defervesced and remained afebrile for the 
remainder of her stay.  Her symptoms improved with incentive 
spirometry and ambulation.

Patient was continued on her home medication for hypertension 
(restarted post operative day 1).

By post-operative day 2, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 

 
Medications on Admission:
1.  Lisinopril/HCTZ--25 mg.
2.  Claritin p.r.n.
3.  Aspirin p.r.n.
4.  Vitamin D.
5.  Calcium.
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*50 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
daily Disp #*60 Capsule Refills:*1 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*50 Tablet Refills:*1 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Severe 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
do not drive or drink alcohol while taking this medication. 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 4 hours Disp #*40 
Tablet Refills:*0 
5.  Hydrochlorothiazide 25 mg PO DAILY  
6.  Lisinopril 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
endometrial cancer with ovarian involvement

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
.
You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 
. 
Laparoscopic instructions:  
* Take your medications as prescribed. We recommend you take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
you start to feel better and need less medication, you should 
decrease/stop the narcotic first.
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 8 
weeks
* No heavy lifting of objects >10 lbs for 4 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  
.
Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* You should remove your port site dressings ___ days after your 
surgery, if they have not already been removed in the hospital. 
Leave your steri-strips on.  If they are still on after ___ 
days from surgery, you may remove them.   
.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  

.
Call your doctor at ___ for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing 
* onset of any concerning symptoms 

 
Followup Instructions:
___